* C:\Users\Sam\Documents\ANUWork\ENGN2218\ENGN2218-PreLabs\LAB01\HLab01_BJT_CE.asc
RC N001 Vc 1k
RB1 N001 N003 10k
VS N002 0 SINE(0 150m 1k)
RS Vin N002 50
C1 N003 Vin 1µ
C2 Vout Vc 1µ
RB2 N003 0 4.7k
Q1 Vc N003 N004 0 2N3904
RE N004 0 430
RL Vout 0 10k
VCC N001 0 12
CE N004 0 47µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sam\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10ms 0 1ms
.backanno
.end
